US07041687B2
3-Amino-5-[4-tert-butoxycarbonylamino-2-(3,4-dichloro-phenyl)-butyrylamino]-indazole-1-carboxylic acid tert-butyl ester:
To a stirred solution of 3,5-diamino-indazole-1-carboxylic acid tert-butylester (2.17 g, 8.75 mmol), PyBroP (4.1 g, 8.75 mmol) and 4-tert-butoxycarbonylamino-2-(3,4-dichloro-phenyl)-butyric acid (3 g, 8.75 mmol) in dichloromethane (100 mL) was added diisopropylethylamine (3.0 mL, 17.5 mmol) at 0° C. The resulting mixture was allowed to warm to room temperature over 4 hours then was concentrated and the residue partitioned between EtOAc and ammonium chloride (saturated, aqueous). The organic phase was separated and washed with sodium bicarbonate (saturated, aqueous), then dried (sodium sulfate) and concentrated to a brown foam. Purification by column chromatography (silica, 20% petroleum ether-EtOAc gave the title compound as a light brown solid (2.92 g, 58%); 1H NMR (400 MHz, DMSO) 1.36 (9H, s), 1.56 (9H, s), 1.80–1.90 (1H, m), 2.10–2.20 (1H, m), 2.89 (2H, m), 6.29 (2H, brs), 6.87 (1H, t), 7.38 (1H, d), 7.45 (1H, d), 7.61–7.65 (2H, m), 7.90 (1H, m), 8.19 (1H, s), 10.30 (1H, s); MS (ES+) m/e=578.

reactant | 3,5-diamino-indazole-1-carboxylic acid tert-butylester | 8.75 mmol, 2.17 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)N)N | C12H16N4O2
reactant | PyBroP | 8.75 mmol, 4.1 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
reactant | 4-tert-butoxycarbonylamino-2-(3,4-dichloro-phenyl)-butyric acid | 8.75 mmol, 3 g | C(C)(C)(C)OC(=O)NCCC(C(=O)O)C1=CC(=C(C=C1)Cl)Cl | C15H19Cl2NO4
reactant | diisopropylethylamine | 17.5 mmol, 3.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-Amino-5-[4-tert-butoxycarbonylamino-2-(3,4-dichloro-phenyl)-butyrylamino]-indazole-1-carboxylic acid tert-butyl ester | 2.92 g, 58% | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)NC(C(CCNC(=O)OC(C)(C)C)C1=CC(=C(C=C1)Cl)Cl)=O)N | C27H33Cl2N5O5
